US03931209
Preparation of 2-Methyl-4-(5-cyclobutyl-1,3,4-thiadiazol-2-yl)semicarbazide
A solution of methylhydrazine (0.3 mole) in methylene chloride (150 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 5-Cyclobutyl-1,3,4-thiadiazol-2-yl isocyanate dimer (0.1 mole) is then added, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 4 hours. After this time the reaction mixture is stripped of solvent and excess hydrazine to yield the desired product 2-methyl-4-(5-cyclobutyl-1,3,4-thiadiazol-2-yl)semicarbazide.

reactant | methylhydrazine | 0.3 mole | CNN | CH6N2
reactant | 5-Cyclobutyl-1,3,4-thiadiazol-2-yl isocyanate | C1(CCC1)C1=NN=C(S1)N=C=O | C7H7N3OS
reactant | hydrazine | NN | H4N2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-4-(5-cyclobutyl-1,3,4-thiadiazol-2-yl)semicarbazide | CN(N)C(=O)NC=1SC(=NN1)C1CCC1 | C8H13N5OS
